US06939885B2
Synthesis of N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-4-ethyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 102 mg of 4-ethyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 0.94 (t, 3H, J=7.6 Hz), 2.38 (q, 2H, J=15.2 Hz, 7.6 Hz), 6.94 (d, 2H, J=6.8 Hz), 7.16 (m, 2H), 7.23 (m, 1H), 7.30 (m, 4H), 8.60 (b, 2H), 9.73 (b, 1H). MS: m/z 401.1 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-ethyl-benzenesulfonyl chloride | 102 mg | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
product | N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-4-ethyl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)CC)C(=O)C1=CC=NC=C1 | C20H17ClN2O3S
